US08476297B2
Step 2: 2-Benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydro-isoquinoline
To a solution of 3-methylisoquinoline (1.0 g, 6.98 mmol) in THF (6 mL) was added benzyl bromide (0.78 mL, 6.63 mmol). After the addition was completed, the mixture was heated at 70° C. under N2 for 16 h. The mixture was cooled down to RT and THF (10 mL). Then, the mixture was cooled to 0° C. and (4-(trifluoromethyl)phenyl)magnesium bromide was added, and then stirred at RT for 16 h. After quenching with saturated ammonium chloride solution, the mixture was extracted several times with EtOAc. The combined organic extracts were dried over MgSO4 and concentrated. The residue was mixed with silica gel and the solid mixture was purified by silica gel flash column chromatography (30%-100% EtOAc/hexane, then 20% MeOH in DCM) to give a mixture of 2-benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2-dihydroisoquinoline & 2-benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-isoquinolinium, which was used without further purification. This mixture was dissolved in THF (45 mL) and sodium borohydride (2.6 g, 68.9 mmol) was added. The resulting mixture was stirred at RT 15 min, and then glacial acetic acid (1 mL) was added. The mixture was stirred at RT for 2 h, and then at 55° C. for an additional 2 h. After cooling down to RT, it was basified with NaOH (10 N) (to pH>12). The organic layer was collected and the aqueous layer was extracted several times with EtOAc. The combined organic extracts were then dried over MgSO4 and concentrated. The residue was dissolved MeOH (5 mL) and the solution mixture was purified by preparative HPLC (0% MeCN 0.1% TFA/H2O 0.1% TFA). All fractions of the product were combined and MeCN was removed in vacuo. The aqueous phase was basified with NaHCO3 and extracted with EtOAc. The combined organic extracts were dried over MgSO4, concentrated, and dried to give the title compound as a yellow oil.

reactant | 3-methylisoquinoline | 6.98 mmol, 1.0 g | CC=1N=CC2=CC=CC=C2C1 | C10H9N
reactant | benzyl bromide | 6.63 mmol, 0.78 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (4-(trifluoromethyl)phenyl)magnesium bromide | FC(C1=CC=C(C=C1)[Mg]Br)(F)F
reactant | 2-benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2-dihydroisoquinoline | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C=C1C)C1=CC=C(C=C1)C(F)(F)F | C24H20F3N
reactant | 2-benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-isoquinolinium | C(C1=CC=CC=C1)[N+]1=C(C2=CC=CC=C2C=C1C)C1=CC=C(C=C1)C(F)(F)F
reactant | sodium borohydride | 68.9 mmol, 2.6 g | [BH4-].[Na+]
reactant | NaOH | 10 N, pH>12 | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-Benzyl-3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydro-isoquinoline | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1C)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N
